US07427631B2
1-(1,1′-biphenyl-4-ylsulfonyl)propan-2-one
1-(1,1′-biphenyl-4-ylthio)propan-2-one (69 mg, 0.28 mmol) was stirred at room temperature with sodium bicarbonate (72 mg, 0.85 mmol), oxone ((525 mg, 0.85 mmol), water (5 ml) and methanol (10 ml) for 3 hours. Water (50 ml) was added and the product extracted into ethyl. acetate (3×25 ml). The extracts were brine washed, sodium sulphate dried and evaporated to give 78 mg (99%) product that was of sufficient purity to use with out further purification.

reactant | 1-(1,1′-biphenyl-4-ylthio)propan-2-one | 0.28 mmol, 69 mg | C1(=CC=C(C=C1)SCC(C)=O)C1=CC=CC=C1 | C15H14OS
reactant | sodium bicarbonate | 0.85 mmol, 72 mg | C([O-])(O)=O.[Na+]
reactant | oxone | OOS(=O)[O-].[K+]
reactant | Water | 50 ml | O | H2O
reactant | water | 5 ml | O | H2O
solvent | methanol | 10 ml | CO | CH4O
product | 1-(1,1′-biphenyl-4-ylsulfonyl)propan-2-one | 78 mg, 99% | C1(=CC=C(C=C1)S(=O)(=O)CC(C)=O)C1=CC=CC=C1 | C15H14O3S
